US07132425B2
A solution of (5-bromomethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester (prepared according to WO 02/070494, 1.03 g, 3.575 mmol) in acetone (11.6 mL) was treated with sodium thiomethoxide (0.33 g, 4.473 mmol). The reaction mixture was stirred at 25° C. for 5 h 15 min. The reaction was then concentrated in vacuo, and the residue was partitioned between ethyl acetate (200 mL) and water (200 mL). The aqueous layer was back-extracted with ethyl acetate (100 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40L, Silica, 5% ethyl acetate/methylene chloride) afforded (5-methylsulfanylmethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester as a crude white solid (0.45 g, 49%) which was used without further purification.

reactant | (5-bromomethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester | 3.575 mmol, 1.03 g | C(C)(C)(C)OC(NC1=NC=C(N=C1)CBr)=O | C10H14BrN3O2
reactant | sodium thiomethoxide | 4.473 mmol, 0.33 g | C[S-].[Na+]
solvent | acetone | 11.6 mL | CC(=O)C | C3H6O
product | (5-methylsulfanylmethyl-pyrazin-2-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC=C(N=C1)CSC)=O | C11H17N3O2S
